US05847122
(2S,3R)-3-(4-Methylphenyl)-2,3-epoxy-N-methylpropionamide and 2-amino-5-methylthiophenol are treated in the same manner as in Reference Example 1-(2) to give (2R,3R)-3-(2-amino-5-methylphenylthio)-2-hydroxy-3-(4-methylphenyl)-N-methylpropionamide.

reactant | (2S,3R)-3-(4-Methylphenyl)-2,3-epoxy-N-methylpropionamide | CC1=CC=C(C=C1)[C@@H]1[C@@H](C(=O)NC)O1 | C11H13NO2
reactant | 2-amino-5-methylthiophenol | NC1=C(C=C(C=C1)C)S | C7H9NS
product | (2R,3R)-3-(2-amino-5-methylphenylthio)-2-hydroxy-3-(4-methylphenyl)-N-methylpropionamide | NC1=C(C=C(C=C1)C)S[C@@H]([C@@H](C(=O)NC)O)C1=CC=C(C=C1)C | C18H22N2O2S
